US08664214B2
LiAlH4 (1 M solution in THF, 8.93 mL, 8.93 mmol) was added dropwise to a solution of ethyl 2,6-dimethyl-4-phenylnicotinate (940 mg, 3.57 mmol) in THF (38 mL) at 0° C. After stirring for 45 min, the reaction mixture was allowed to warm to room temperature and the stirring was continued for 75 min Water (0.2 mL) was added at 0° C. followed by NaOH (2 M, 0.2 mL) and water (0.2 mL). After the addition of excess EtOAc and filtration, the solvent was removed in vacuo providing (2,6-dimethyl-4-phenylpyridin-3-yl)methanol as a pale yellow gum (780 mg, >99%). ESI-MS [M+H]+=214.1.

reactant | LiAlH4 | 8.93 mmol, 1 M, 8.93 mL | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | ethyl 2,6-dimethyl-4-phenylnicotinate | 3.57 mmol, 940 mg | CC1=C(C(=O)OCC)C(=CC(=N1)C)C1=CC=CC=C1 | C16H17NO2
reactant | Water | 0.2 mL | O | H2O
reactant | NaOH | 2 M, 0.2 mL | [OH-].[Na+]
reactant | water | 0.2 mL | O | H2O
solvent | THF | 38 mL | C1CCOC1 | C4H8O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | (2,6-dimethyl-4-phenylpyridin-3-yl)methanol | 780 mg, >99% | CC1=NC(=CC(=C1CO)C1=CC=CC=C1)C | C14H15NO
